US04839369
5-[4-(2-Quinolylmethyloxy)benzyl]tetrazole
A mixture of 8.6 g of 4(2-quinolylmethyloxy)phenylacetonitrile, 6.1 g of sodium azide and 5.0 g of ammonium chloride was heated with 70 ml of dry dimethylformamide at 140° C. for twenty hours. The reaction mixture was poured onto ice, basified with 1N sodium hydroxide and extracted 2 times with ethyl acetate. The aqueous fraction was extracted 2 times with ethyl acetate. Removal of solvent left 10.3 g of crude product. This was crystallized from methanol:ethyl acetate to yield 3.3 g of pure product of m.p. 173°-175° C.

reactant | 4(2-quinolylmethyloxy)phenylacetonitrile | 8.6 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CC#N | C18H14N2O
reactant | sodium azide | 6.1 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 5.0 g | [Cl-].[NH4+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 5-[4-(2-Quinolylmethyloxy)benzyl]tetrazole | 3.3 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CC2=NN=NN2)C=C1 | C18H15N5O
